US08114989B2
1-(5-Fluoropyridin-2-yl)ethanone
2-Bromo-5-fluoropyridine (13.0 g, 73.9 mmol), copper(I) iodide (2.10 g, 11.1 mmol) and dichlorobis (triphenylphosphine) palladium(II) in anhydrous acetonitrile (100 ml) was added tributyl(1-ethoxyvinyl)atannane (27.5 ml, 81.3 mmol). The reaction was heated at reflux. After heating for 70 hours, 1.5 M aqueous HCl (20 ml) was added to quench the reaction and the mixture was heated at reflux for 1 hour. After cooling to room temperature, the reaction mixture was neutralized with saturated sodium bicarbonate and extracted with ether (3×100 ml). The combined organic layers were dried over dried over sodium sulfate, and concentrated. After removal of solvent, the resulted residue was purified by column chromatography (hexane-ether=5:1) to give the title compound as a clear oil [11.3 g (75% pure), 82%]. 1H NMR (400 MHz, CDCl3) 8.51 (d, J=3.2 Hz, 1H), 8.11 (dd, J=4.4 and 4.4 Hz, 1H), 7.51 (ddd, J=2.8, 3.2 and 2.8 Hz, 1H), 2.71 (s, 3H).

reactant | 2-Bromo-5-fluoropyridine | 73.9 mmol, 13.0 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | HCl | 1.5 M, 20 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | copper(I) iodide | 11.1 mmol, 2.10 g | [Cu]I
product | 1-(5-Fluoropyridin-2-yl)ethanone | 11.3 g | FC=1C=CC(=NC1)C(C)=O | C7H6FNO
